US04539411
1.01 g (2.23 mmol) of (2S,4S)-4-diphenylphosphino-2-diphenylphosphinomethylpyrrolidine, 1.46 ml (13.38 mmol) of N-methylmorpholine and 30 ml of toluene were placed in a 500 ml sulphonation flask which was provided with a stirrer, thermometer, dropping funnel and argon gasification. While stirring there was then added dropwise thereto at room temperature within 10 minutes a solution of 0.79 g (3.35 mmol) of diphenylphosphinyl chloride in 10 ml of toluene. The reaction was finished after 7 hours. The mixture was then filtered through a sintered glass suction filter and the filtrate was evaporated on a rotary evaporator at 60° C./17 mbar. The residue (2.2 g) was taken up in 30 ml of diethyl ether and treated with 30 ml of 3N hydrochloric acid. The ether phase was then separated and the aqueous phase was extracted a further twice with 30 ml of diethyl ether each time. The extracts were dried over sodium sulphate, filtered off and concentrated on a rotary evaporator at 60° C./17 mbar. For purification the residue (1.57 g) was chromatographed over 140 g of Kieselgel 60 (0.063 to 0.20 mm granular size). A mixture of benzene/ethyl acetate/ethanol (8:2:1) was used as the eluant. After evaporation of the solvent and drying for 16 hours/1 mbar, there was obtained 1.12 g (76.8%) of pure (2S,4S)-4-(diphenylphosphino)-2-[(diphenylphosphino)methyl]-1-(diphenylphosphinyl)-pyrrolidine. Melting point: sintering from 65° C., clear melting at 130° C. [α]D20 =-21.4° (c=0.5 in benzene).

reactant | (2S,4S)-4-diphenylphosphino-2-diphenylphosphinomethylpyrrolidine | 2.23 mmol, 1.01 g | C1(=CC=CC=C1)P([C@H]1C[C@H](NC1)CP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H29NP2
reactant | N-methylmorpholine | 13.38 mmol, 1.46 ml | CN1CCOCC1 | C5H11NO
reactant | diphenylphosphinyl chloride | 3.35 mmol, 0.79 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (2S,4S)-4-(diphenylphosphino)-2-[(diphenylphosphino)methyl]-1-(diphenylphosphinyl)-pyrrolidine | 1.12 g, 76.8% | C1(=CC=CC=C1)P([C@H]1C[C@H](N(C1)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1)CP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C41H38NOP3
